US04390693
To a solution of [4-diphenylmethoxycarbonyl-7β-thiopheneacetamido-ceph-3-em-3-ylmethyl]triphenylphosphonium iodide (0.1 g) in acetone:water (12 ml:2 ml) is added in an ice-bath and the pH adjusted to pH 11 with 2 N sodium hydroxide. The reaction mixture is diluted with an equal volume of solvent and filtered. The precipitate is washed with acetone and ether and dried to give benzhydryl 7β-thiopheneacetamido-7-methoxy-3-(triphenylphosphoranylidenemethyl)-ceph-3-em-4-carboxylate.

reactant | [4-diphenylmethoxycarbonyl-7β-thiopheneacetamido-ceph-3-em-3-ylmethyl]triphenylphosphonium iodide | 0.1 g | [I-].C1(=CC=CC=C1)C(OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(CC=2SC=CC2)=O)=O)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC=CC=C2
reactant | water | 12 ml | O | H2O
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | acetone | CC(=O)C | C3H6O
product | benzhydryl 7β-thiopheneacetamido-7-methoxy-3-(triphenylphosphoranylidenemethyl)-ceph-3-em-4-carboxylate | S1C(=CC=C1)CC(=O)N[C@]1([C@@H]2N(C(=C(CS2)C=P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)OC | C46H39N2O5PS2
